US06841554B2
A solution of sodium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate in aqueous acetonitrile (11 ml) containing sodium chloride (1.4 g) was cooled to −5° C. and the pH adjusted to 3.4 to 4 with 1M hydrchloric acid. The aqueous phase was separated off and the organic phase was filtered through anhydrous magnesium sulphate. Acetonitrile (14 ml) was added to the organic phase and aqueous ethylamine (0.21 ml) was added. The solution was heated to 30° C. and held at this temperature for 90 minutes. The product was isolated by filtration at 0° C. and dried at 35° C. under vacuum to give ethylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (0.7 g) as white crystals. The X-ray powder diffraction spectra for a typical sample of the crystalline ethylammonium salt is shown in FIG. 3 hereinafter. The ten most prominent peaks in the XRD occur at about 2-theta=8.6, 15.9, 16.9, 18.4, 18.7, 19.7, 20.8, 23.3, 23.8 and 25.8°.

reactant | sodium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.[Na+]
reactant | sodium chloride | 1.4 g | [Cl-].[Na+]
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
product | ethylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 0.7 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.C(C)[NH3+] | InChI=1S/C22H28FN3O6S.C2H7N/c1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;1-2-3/h5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);2-3H2,1H3/b10-9+;/t16-,17-;/m1./s1
